Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
none
 
Major Surgical or Invasive Procedure:
primary low transverse cesarean section
 
History of Present Illness:
___ y/o G1 with IVF di/di twin pregnancy at 33+1wks was sent to 
labor and delivery from Dr ___ for repeat ultrasound 
due to Twin A with low fluid. Ultrasound revealed vertex/breech 
twins, Twin A BPP ___, and Twin B BPP ___. She was also noted to 
have contractions. Her cervix was 1/long. She was not feeling 
contractions but now thinks she feels them as she is looking at 
the tocometer. She denies any leaking of fluid or vaginal 
bleeding. No urinary symptoms or other complaints. She reports 
active fetal movement.
 
Past Medical History:
PRENATAL COURSE
___ ___ by IVF dating
(2)Labs: A+/Ab-,RI,RPRnr,HbsAg-,GLT 96
(3)Screening: ERA low risk x 2
(4)U/S: (___) Twin A 1656g(44%), Twin B 1621g(41%)

PAST OBSTETRIC HISTORY
G1

PAST GYNECOLOGIC HISTORY
denies abnormal paps, STIs

PAST MEDICAL HISTORY
mild asthma

PAST SURGICAL HISTORY
none
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
GENERAL: NAD
VITALS: T 97.9, BP 104/66
LUNGS: CTAB
HEART: RRR
ABDOMEN: gravid, nontender
SVE: ___ (1/long in office 2 hrs ago)
FHR:
A 130s, mod var, +accels, no decels
B 130s, mod var, +accels, no decels
TOCO: q ___
 
Pertinent Results:
___ WBC-13.9 RBC-4.07 Hgb-11.7 Hct-34.0 MCV-84 Plt-203
___ Neuts-79.5 ___ Monos-5.0 Eos-2.7 Baso-0.2
___ WBC-18.8 RBC-3.68 Hgb-10. Hct-30.3 MCV-82 Plt-218

___ URINE Blood-NEG Nitrite-NEG Protein-NEG Glucose-NEG 
Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-SM 

URINE CULTURE (Final ___: 
   GRAM POSITIVE BACTERIA.  >100,000 ORGANISMS/ML.. 
   Alpha hemolytic colonies consistent with alpha
   streptococcus or Lactobacillus sp.
 
Brief Hospital Course:
___ G1 with IVF di/di twins admitted at 33+1wks with preterm 
contractions and oligohydramnios Twin A.
.
Mrs ___ was contracting irregularly on arrival to labor and 
delivery. Her cervix was 2cm/80% which was a change from her 
exam in the office, however, by a different examiner. There was 
no sign of infection. Fetal testing was reassuring and she was 
given a course of betamethasone for fetal lung maturity. Her 
cervix made no further cervical change and she went to the ATU 
for repeat ultrasound and MFM consult by Dr ___. Repeat 
ultrasound revealed subjectively low fluid around Twin A with 
only one 2 by 2 pocket and the membrane appeared tightly applied 
to Twin A. Twin A had normal umbilical Doppler study. He 
recommended reevaluating once she was betamethasone complete. 
She underwent continuous monitoring on labor and delivery with 
reassuring fetal testing. She was started on Nifedipine for her 
preterm contractions with good result. Her cervix remained 
unchanged. On hospital day #2, the patient complained of leaking 
fluid and preterm premature rupture of membranes was confirmed 
by speculum exam. She was started on antibiotics for latency 
antibiotics and the Nifedipine was discontinued. The decision 
was made to delier the patient when she was beta complete. Fetal 
testing was reassuring. Her contractions progressively 
intensified and she was delivered by primary low transverse 
cesarean section at 33+3 weeks gestation (___). She was 
betamethasone complete at the time of delivery. Twin A, liveborn 
male delivered from ___, 1915g, apgars 9 and 9. Twin B, 
liveborn male, 2050g, apgars 8 and 8. NICU staff was present for 
delivery and transferred both neonates immediately for 
prematurity. There were no intra-operative complications. Please 
see operative note for details. She had an uneventful postpartum 
course and was discharged home on POD#4.
 
Medications on Admission:
albuterol prn
 
Discharge Medications:
1. Hospital grade Breast Pump
Premature twins in NICU
2. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q3-4H () as needed.
Disp:*40 Tablet(s)* Refills:*0*
3. Ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed.
Disp:*40 Tablet(s)* Refills:*0*
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
premature preterm rupture of memebranes at 33 weeks
Twin pregnancy
Baby boys, 4#4oz, 4#8oz
 
Discharge Condition:
good
 
Discharge Instructions:
see instruction sheet
 
Followup Instructions:
___